US05294624
First, 20 g of 3,5-di-t-butyl-4-hydroxycinnamic acid, 11.2 g of serine methyl ester hydrochloride, 13.6 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, and 10 ml of triethylamine were added to 300 ml of dichloromethane, and then the mixture was allowed to react for 2 hours at room temperature. After completion of the reaction, this mixture was washed by addition of water, and the dichloromethane was distilled off under reduced pressure. The residue so obtained was separated and purified by column chromatography on silica gel using chloroform as an eluent, thereby obtaining 9.3 g of N-(3,5-di-t-butyl-4-hydroxycinnamyl)serine methyl ester.

reactant | 3,5-di-t-butyl-4-hydroxycinnamic acid | 20 g | C(C)(C)(C)C=1C=C(C=CC(=O)O)C=C(C1O)C(C)(C)C | C17H24O3
reactant | serine methyl ester hydrochloride | 11.2 g | Cl.COC([C@@H](N)CO)=O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 13.6 g | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | N-(3,5-di-t-butyl-4-hydroxycinnamyl)serine methyl ester | 9.3 g | COC([C@@H](NCC=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)CO)=O | C21H33NO4
